US08183271B2
Methyl E-4-[2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-enyl]benzoate
5.9 ml (9.45 mmol) of a 1.6 M solution of n-butyllithium in hexane are slowly added to a solution of 1820 mg (4.05 mmol) of (2-hydroxybenzyl)triphenylphosphonium bromide in 50 ml of anhydrous THF at 0° C. Then, at this temperature, 1085 mg (3.38 mmol) of methyl 4-[4-(4-cyanophenyl)-2-formylbutyl]benzoate, dissolved in 40 ml of THF, are added slowly. After warming to room temperature, the reaction solution is stirred for 12 hours and then, after addition of some water, concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1→2:1). 1150 mg (2.79 mmol, 83% of theory) of a colorless solid are obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (2-hydroxybenzyl)triphenylphosphonium bromide | 4.05 mmol, 1820 mg | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | methyl 4-[4-(4-cyanophenyl)-2-formylbutyl]benzoate | 3.38 mmol, 1085 mg | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)C=O | C20H19NO3
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Methyl E-4-[2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-enyl]benzoate | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O | C27H25NO3
